US04524073
1-Methanesulphonamido 2-methanesulphonyloxyethane
A stirred solution of ethanolamine (9.15 g) in pyridine (40 ml) was cooled to 0° C. in an ice-salt bath, and mesylchloride (23 ml) was added dropwise at such a rate that the temperature did not rise above 5° C. When the addition was complete the mixture was allowed to rise to room temperature for 1/2 hour. The mixture was poured into citric acid solution and continuously extracted with ehtylacetate for 11/2 hours. The solution was dried over magnesium sulphate and evaporated to give 23.7 g of the title compound.

reactant | ethanolamine | 9.15 g | C(O)CN | C2H7NO
reactant | mesylchloride | 23 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 1-Methanesulphonamido 2-methanesulphonyloxyethane | 23.7 g | CS(=O)(=O)NCCOS(=O)(=O)C | C4H11NO5S2
